US07504399B2
2-(4-fluoro-7-(1H-1,2,3-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (70 mg), 2-(phenyl(piperazin-1-yl)methylene)malononitrile (55 mg), 3-(diethoxyphosphoryloxy)-1,2,3-benzotriazin-4(3H)-one (DEPBT) (200 mg) and Hunig's Base (0.1 ml) were combined in 1.5 ml of DMF. The mixture was stirred at room temperature for 16 hours. Then, DMF was removed via evaporation at reduced pressure and the residue was partitioned between ethyl acetate (10 ml) and water (10 ml). The organic layer washed saturated NaHCO3 solution (3×100 ml), and brine (10 ml). The organic phase was dried over anhydrous MgSO4-Concentration in vacuo provided a crude product, which was purified using Shimadzu automated preparative HPLC System to afford 2-((4-(2-(4-fluoro-7-(1H-1,2,3-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetyl)piperazin-1-yl)(phenyl)methylene)malononitrile.

reactant | 2-(4-fluoro-7-(1H-1,2,3-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 70 mg | FC1=C2C(=C(N=C1)N1N=NC=C1)NC=C2C(C(=O)O)=O | C11H6FN5O3
reactant | 2-(phenyl(piperazin-1-yl)methylene)malononitrile | 55 mg | C1(=CC=CC=C1)C(=C(C#N)C#N)N1CCNCC1 | C14H14N4
reactant | 3-(diethoxyphosphoryloxy)-1,2,3-benzotriazin-4(3H)-one | 200 mg | C(C)OP(=O)(OCC)ON1N=NC2=C(C1=O)C=CC=C2 | C11H14N3O5P
reactant | Hunig's Base | 0.1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 2-((4-(2-(4-fluoro-7-(1H-1,2,3-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetyl)piperazin-1-yl)(phenyl)methylene)malononitrile | FC1=C2C(=C(N=C1)N1N=NC=C1)NC=C2C(C(=O)N2CCN(CC2)C(=C(C#N)C#N)C2=CC=CC=C2)=O | C25H18FN9O2
